US08629157B2
Step 3: (S)-4,4-difluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
Lithium hydroxide monohydrate (469 mg, 11.2 mmol) is added to a solution of (S)-4,4-difluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1.48 g, 5.59 mmol) in 3:1 acetonitrile in water (20 mL). The reaction is stirred at room temperature for 2 hours. The reaction mixture is concentrated under reduced pressure and diluted with water and extracted with ether. The aqueous layer is acidified to PH˜1 and extracted with ethyl acetate 3 times. The organics are combined and washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield the title compound. ESI m/z 152 [M+H+−100].

reactant | Lithium hydroxide monohydrate | 11.2 mmol, 469 mg | O.[OH-].[Li+]
reactant | (S)-4,4-difluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 5.59 mmol, 1.48 g | COC(=O)[C@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C | C11H17F2NO4
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | (S)-4,4-difluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O | C10H15F2NO4
